US04812565
6-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[4,3-f]-1,4-oxazepin-5(4H)-one
To a suspension of 2.1 g (60% in oil, 0.052 mole) of sodium hydride in 125 ml of dimethylformamide heated to 60° C. under a nitrogen gas blanket was added a solution of 2.65 g (0.026 mole) of N-methyl-3-pyrrolidinol and 5.0 g (0.026 mole) of 3,5-dichloropyridine-4-carboxylic acid in 40 ml of dimethylformamide dropwise at such a rate as to maintain 60° C. Subsequent to this addition, the mixture was heated to 75° C. for 3 hr. The solvent was then removed by rotary evaporation (60° C., 5 mm). The entire solid residue was suspended in 150 ml methylene chloride and hydrogen chloride added until a pH of 3 was reached. To the resulting mixture was added 15 g (0.057 mole) of triphenylphosphine and 15 g carbon tetrachloride and the entire mixture heated to reflux. After 1 hr, 7.5 g (0.029 mole) of triphenylphosphine and 7.5 g carbon tetrachloride was added, followed by the same increments 1 hr later. The reaction was driven to completion by adding 20 ml of triethylamine. The reaction mixture was washed with 6×50 ml of 3N hydrochloric acid, dried over sodium sulfate, filtered and concentrated by rotary evaporation. To the residue was added ethyl acetate, which caused much tarry material to fall out of solution, leaving the desired product and triphenylphosphie oxide in solution. The mixture was chromatographed by column chromatography using silica gel as the stationary phase and ethyl acetate as eluent. Similar fractions were combined and ethyl acetate removed by rotary evaporation, yielding 0.6 g (7%), of white crystals, m.p. 134°-38° C.

reactant | sodium hydride | 0.052 mole, 2.1 g | [H-].[Na+]
reactant | N-methyl-3-pyrrolidinol | 0.026 mole, 2.65 g | CN1CC(CC1)O | C5H11NO
reactant | 3,5-dichloropyridine-4-carboxylic acid | 0.026 mole, 5.0 g | ClC=1C=NC=C(C1C(=O)O)Cl | C6H3Cl2NO2
reactant | triphenylphosphine | 0.057 mole, 15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.029 mole, 7.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 7.5 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 15 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-2-(2-chloroethyl)-2,3-dihydro-4-methylpyrido[4,3-f]-1,4-oxazepin-5(4H)-one | ClC1=CN=CC2=C1C(N(CC(O2)CCCl)C)=O | C11H12Cl2N2O2
